US04462992
1-(Tetrahydro-2-pyranyl)-2-nitroimidazole
A suspension of 0.113 g (1.0 mmol) of 2-nitroimidazole and 10 ml of 2,3-dihydropyran was stirred at 80° C. in the presence of 5 mg of p-toluenesulfonic acid for 1 hr. according to the procedure of Robins et al. [J. Am. Chem. Soc 83, 2574 (1961)]. The excess of 2,3-dihydropyran was removed under reduced pressure. The residue was chromatographed on silica gel by elution with ethyl acetate-benzene mixture (employing a gradient from 9:1 to 1:1) to provide 0.165 g (83.7%) of the title compound, which was recrystallized from petroleum ether, mp 50° C.

reactant | 2-nitroimidazole | 1.0 mmol, 0.113 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | p-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,3-dihydropyran | 10 ml | O1CCCC=C1 | C5H8O
product | 1-(Tetrahydro-2-pyranyl)-2-nitroimidazole | 0.165 g, 83.7% | O1C(CCCC1)N1C(=NC=C1)[N+](=O)[O-] | C8H11N3O3
